US07842830B2
1-(3,4-Bis-dodecyloxy-phenyl)-2-(4-iodo-phenyl)-ethane-1,2-dione (JYC-II-024-A).
A solution of [2-(3,4-bis-dodecyloxy-phenyl)-[1,3]dithian-2-yl]-(4-iodo-phenyl)-methanol (JYC-II-020-A) (8.2 g, 10.3 mmol) in 400 mL of acetone was added dropwise to a solution of NBS (31.86 g, 17.9 mmol) in 3% water/acetone (v/v) at 0° C. The reaction mixture was stirred at 0-25° C. for 30 min. It was then poured into a saturated aqueous Na2SO3 solution (400 mL) and CH2Cl2 (400 mL) mixture. The resulting mixture was stirred at room temperature for additional 10 min. The organic layer was washed with H2O and dried over anhydrous MgSO4. The solvent was removed under reduced pressure. The crude product was recrystallized from hexanes. The product was further purified by column chromatography (silica gel, hexanes:dichloromethane=2:1 (v/v)) to give a light yellow solid (1.84 g, 25.4%). 1H NMR (300 MHz, CDCl3, δ): 7.85 (d, J=8.5 Hz, 2H), 7.65 (d, J=8.5 Hz, 2H), 7.53 (d, J=1.9 Hz, 1H), 7.38 (dd, J=8.5 Hz, 1.9 Hz, 1H), 6.83 (d, J=8.2 Hz, 1H), 4.04 (t, J=6.6 Hz, 2H), 4.03 (t, J=6.6 Hz, 2H), 1.76-1.86 (m, 4H), 1.20-1.51 (m, 36H), 0.86 (t, J=6.3 Hz, 6H). 13C {1H} NMR (75 MHz, CDCl3, δ): 193.77, 192.45, 155.19, 149.28, 138.17, 132.46, 130.90, 126.16, 125.47, 111.94, 111.46, 103.28, 69.21, 69.15, 32.00, 29.75, 29.70, 29.66, 29.45, 29.40, 29.10, 28.94, 26.06, 25.98, 22.78, 14.24. HRMS-EI (m/z): [M]+ calcd for C38H57IO4, 704.33016; found, 704.32941. Anal. calcd for C38H57IO4: C, 64.76; H, 8.15. Found: C, 64.81; H, 8.15.

reactant | [2-(3,4-bis-dodecyloxy-phenyl)-[1,3]dithian-2-yl]-(4-iodo-phenyl)-methanol | 10.3 mmol, 8.2 g | C(CCCCCCCCCCC)OC=1C=C(C=CC1OCCCCCCCCCCCC)C1(SCCCS1)C(O)C1=CC=C(C=C1)I | C41H65IO3S2
reactant | NBS | 17.9 mmol, 31.86 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | Na2SO3 | 400 mL | [O-]S(=O)[O-].[Na+].[Na+]
reactant | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
solvent | acetone | 400 mL | CC(=O)C | C3H6O
solvent | water acetone | O.CC(=O)C
product | 1-(3,4-Bis-dodecyloxy-phenyl)-2-(4-iodo-phenyl)-ethane-1,2-dione | 1.84 g, 25.4% | C(CCCCCCCCCCC)OC=1C=C(C=CC1OCCCCCCCCCCCC)C(C(=O)C1=CC=C(C=C1)I)=O | C38H57IO4
